US07011838B2
First, 4.44 g of (4-(trifluoromethyl)benzylidene)malononitrile was dissolved in 20 ml of ethanol, and while stirring at room temperature, a suspension of 0.19 g of sodium borohydride in 5 ml of ethanol was added dropwise, followed by stirring at room temperature for 30 minutes. Then, 10% hydrochloride acid was added to the reaction mixture, which became acidic and was extracted with diethyl ether. The organic layer was successively washed with 10% hydrochloric acid, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2.30 g of (4-(trifluoromethyl)benzyl)malononitrile (the intermediate (4)).

reactant | (4-(trifluoromethyl)benzylidene)malononitrile | 4.44 g | FC(C1=CC=C(C=C(C#N)C#N)C=C1)(F)F | C11H5F3N2
reactant | sodium borohydride | 0.19 g | [BH4-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (4-(trifluoromethyl)benzyl)malononitrile | 2.30 g, Yield: 51% | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
